Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Seasonal / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Acute on chronic gait instability
 
Major Surgical or Invasive Procedure:
Muscle biopsy (___)
 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with arthritis who 
presents with acute on chronic gait instability. Gait problems 
started about 4 weeks ago, although according to chart review 
this may be closer to 8 weeks ago. She feels like if she "moves 
wrong," then her legs will give out. Worse at night compared to 
morning. Sometimes says she does not know where her feet are in 
space, sometimes she feels like her knees are buckling, and 
sometimes they simply give out. 

Ms. ___ first experienced proximal muscle weakness and gait 
instability ___ years ago. It first presented acutely, with acute 
weakness and a fall with inability to ambulate after collecting 
plants outside in ___. Etiology was never established, and a 
workup for multiple sclerosis was negative at the time. After 8 
months, her symptoms resolved, with mobility progressively 
reduced after each episode. This is the seventh "major episode" 
that she has experienced, although it is the first for which she 
has sought medical attention since ___ the last episode 
occurred ___ years ago. Her "major episodes" last several 
months, and resolve on their own with slight deterioration from 
baseline coordination and mobility each time. She has 
experienced less severe "minor episodes" of an indeterminate 
frequency between "major" episodes. 

Denies loss of consciousness. Denies bowel/bladder incontinence. 


For the last 4 weeks, she has also been experiencing double
vision at night. She reads and writes for a living, mostly reads
all day. At night, she noticed that the "words are swimming" and
would become double. 

Also has ongoing muscle cramps, again worse at night. Has been
going on the last 4 months. Also complains of her feet feeling
like they have wool socks wrapped around them for months. 

What brought her into the hospital was last night, her right arm
felt heavy, which has never happened before. She went to bed and
did not seek medical help. Symptoms disappeared this morning.
Also developed trouble talking on the phone earlier today, which
combined with her recent episode of R arm weakness, made her 
come
to the ED. She felt like she was having trouble getting her 
words
out, ?slurred speech, and overall felt like her head was too
full.

At baseline, she lives alone and is independent in all ADLs. 
Eats
a balanced diet including protein and vegetables. Noticed some
weight loss over the last 10 weeks as her clothes are looser, 
but
she has no scale at home so is unable to be sure. 
 
Past Medical History:
denies PMH, tubal ligation ___ years ago, ___ years of unspecified 
paroxysmal gait instability / proximal muscle weakness c/w 
current presentation
 
Social History:
___
Family History:
parents with diabetes, sister with diabetes, grandmother with 
rheumatoid arthritis, no history of myasthenia ___
 
Physical Exam:
ADMISSION EXAM

Vitals:  T: ___  HR: 66  BP: 115/71  RR: 16  SaO2: 100% RA
General: having very painful muscle cramps and is distraught
during them, otherwise no acute distress
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
+horizontal diplopia on L gaze and when covering the R eye, the
inside image disappears. L eye does not seem to fully abduct
(subtle). On sustained upgaze, pen turns very blurry and
"disappears" at times. There seems to be some upgaze nystagmus.
V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally.
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. On repetitive stimulation, L
deltoid changes in strength from ___ to ___, not pain limited.
Exam recorded below is prior to fatiguing L deltoid.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5-   3*    5      5     5    5 
 R   4*    5     5     5     5-   3*    4+*    4+*   5    5
*give away weakness  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3+    3+     3+      3+       0
     R  3+    3+     3+      3+       0  

Plantar response extensor bilaterally (vs withdrawal as pt is
very ticklish), no jaw jerk, +bilateral pectoralis jerk but no
cross adductors, no clonus 

- Sensory: Decreased sensation to pin prick on the R hand
compared to L hand (80% of normal), stops at the wrist.
Otherwise, no deficit to light touch or pin elsewhere. Decreased
sensation to proprioception in bilateral toes to large movements
(cannot move toe joint, must move entire toe), mild difficulties
in proprioception in bilateral index fingers to tiny movements

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Needs help getting up from bed. Normal initiation. 
Narrow
base. Needs to hold on to people to walk, sways in place even
with feet apart. Seems to stumble while walking to the bathroom,
does not place feet on the ground entirely at times. Deferred
Romberg given instability.

====
DISCHARGE EXAM
Physical Exam:
AFVSS
General: NAD, appears tired at times
HEENT: NC/AT
Pulmonary: CTAB
Cardiac: RRR, nl s1-s2
Abdomen: soft, NT/ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  

Neurologic: 
-MS: alert, sitting in chair today, oriented, speech is
fluent without paraphasic errors
-CN: bilateral horizontal diplopia improved, no dysarthria, mild
L ptosis, PERRL 3->2, ___ beats end gaze extinguishing nystagmus 

-Motor: no fatiguable deltoid or superior rectus weakness
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5    5      5    4+*   4+*    4+*  5     5
 R   5      5     5    5      5    4+*   4+*    5    5     5
*significant giveway
-Sensory: intact to LT
-Reflexes: 3+ at biceps, brachioradialis bilaterally, 2+
elsewhere. no crossed adductors.
-Coordination: no dysmetria
-Gait: narrow based, unstable gait, with truncal ataxia. today
able to ambulate without assistance, with both arms up. 
 
Pertinent Results:
===Relevant Lab Data===
___ 11:30PM   GLUCOSE-82 UREA N-12 CREAT-0.9 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-22 ANION GAP-21*
___ 11:30PM   ALT(SGPT)-13 AST(SGOT)-22 ALK PHOS-84 TOT 
BILI-0.8
___ 11:30PM   VIT B12-304 FOLATE-18
___ 11:30PM   TSH-1.7
___ 11:30PM   CRP-0.8
___ 01:25AM   WBC-4.0 RBC-4.21 HGB-12.7 HCT-38.4 MCV-91 
MCH-30.2 MCHC-33.1 RDW-13.2 RDWSD-43.4
___ 01:25AM   NEUTS-69.1 LYMPHS-18.6* MONOS-9.9 EOS-2.2 
BASOS-0.0 IM ___ AbsNeut-2.79 AbsLymp-0.75* AbsMono-0.40 
AbsEos-0.09 AbsBaso-0.00*
___ 12:20AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:14AM BLOOD %HbA1c-4.8 eAG-91
___ 12:40PM BLOOD COPPER (SERUM)-Test      
___ 12:40PM BLOOD SED RATE-Test      
___ 12:40PM BLOOD ACETYLCHOLINE RECEPTOR ANTIBODY-Negative 
(<0.30)
___ 12:40PM BLOOD MUSK ANTIBODY-PND
___ 04:50AM BLOOD CK(CPK)-37
___ 04:50AM BLOOD Calcium-8.8 Mg-1.9
___ 12:00PM BLOOD Smooth-Negative
___ 12:00PM BLOOD ___
___ 12:00PM BLOOD RO & ___
___ 12:00PM BLOOD RNP ANTIBODY-PND
___ 12:00PM BLOOD ANTI-JO1 ANTIBODY-PND
___ MUSCLE BIOPSY - Pending

===Imaging Data===
MRI ___
IMPRESSION:  
1.  10 x 12 mm ossified right frontal extra-axial lesion may 
represent an 
osteoma or an ossified meningioma.  No suspicious masses 
identified.  
2.  No evidence of hemorrhage, edema, mass effect, or acute 
infarction. 
3.  Unremarkable head and neck MRA. 

MRI C-spine 1031/___
IMPRESSION: 
1. Study is mildly degraded by motion. 
2.  Within limits of study, no cervical spinal cord lesion 
identified. 
3. Grossly stable multilevel cervical spondylosis compared to ___ prior exam. 
 
Brief Hospital Course:
___ is a ___ woman with no PMH presents with 
acute-on-chronic exacerbation of relapsing-remitting gait 
instability, hip flexor weakness, and diplopia that are worse at 
night as well as muscle cramps and urinary retention. It 
appeared that her symptoms have been going on for more than ___ 
years, with about 7 "flares" occurring sporadically, with 
interval improvement in between these flares. MRI brain and 
C-spine revealed no culprit lesions, showing only a previously 
identified 1-1.2cm ossified right frontal extra-axial lesion and 
grossly stable multilevel cervical spondylosis. Given proximal 
muscle weakness more prominent in the legs, she underwent an EMG 
which showed a generalized myopathic pattern. She subsequently 
underwent a muscle biopsy on ___. We sent off myopathy labs - 
at time of discharge, serologies for ___, anti-Smooth, and 
anti-AchR antibodies were negative, and neither CK, TSH, nor CRP 
were found to be elevated. . Notably, gait improved throughout 
admission; ___ evaluated the patient and recommended rehab. 

At time of discharge, the etiology of her gait disturbance 
remains unclear; potential causes include mitochondrial 
myopathy, paroxysmal inflammatory myositis, nutritional 
deficiency, and stress-related exacerbation of an acute myositis 
suffered 20+ years ago. Of note, one possible cause of her 
myopathy includes a paraneoplastic process, and it appeared Ms. 
___ had not undergone screening mammograms or colonoscopies, 
with a review of systems positive for recent unintended weight 
loss and bright red blood per rectum. Unremarkable neuroimaging 
suggests that structural CNS lesions, radiculopathy, and chronic 
demyelinating disease is unlikely; negative anti-AchR antibodies 
suggest against NMJ disease; absence of abnormal ___, CK, or CRP 
suggests against inflammatory myelitis or myositis; and normal 
B12 and folate suggests against nutritional deficiency.

Her diplopia was not reliably reproducible and improved without 
intervention. 

She was discharged to ___ at ___ with a 
1-week follow-up appointment with outpatient neurology.

====
TRANSITIONAL ISSUES

#NEURO
[ ] follow up with ___ Neurology to discuss results of muscle 
bx, serologies
[ ] wound dressing can be removed in 2 days

#MSK
[ ] encourage pain management and ___ for arthritis

#PCP/PSYCH
[ ] strongly urge cancer screening at f/u appointment, esp. 
colonscopy
[ ] assist with planning for future decompensations, including 
timely contact with health care system and encouraging physical 
activity as tolerated
[ ] screen for depression
[ ] assist with arranging for home support including home ___ 
services and homemaker services
 
Medications on Admission:
Cod liver oil
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
for rehab  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
4.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Generalized myopathic disorder
 
Discharge Condition:
Mental status: Clear and coherent, without cognitive impairment
Level of consciousness: Alert and interactive
Activity Status: Out of bed with assistance to chair, walker, or 
wheelchair

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ Neurology service for problems 
with walking, muscle weakness, and blurry vision. You underwent 
imaging of your brain and spine which did not reveal any 
abnormalities that explain your symptoms. You also underwent 
electromyographic studies which showed some evidence of muscle 
disease, and a muscle biopsy. At this time, the results of 
several blood tests for diseases of muscle and of impaired 
communication between nerve and muscle are still pending. 

Our team will follow up with you to inform you of the results of 
these tests, and to determine a treatment plan.

You will be discharged to a rehabilitation facility, which will 
help you to regain strength before returning home.

You should follow up with your primary care physician ___ 
___, ___. You have an 
appointment scheduled with Dr. ___ at ___ Neurology at 
___ ___ Floor, ___) on 
___ at 8:45am. 

If you notice any worsening of your symptoms, please call the 
Neurology clinic or your primary care provider.

It was a pleasure taking care of you.

Sincerely,
___ Neurology
 
Followup Instructions:
___